US04804658
Utilizing the procedure described in Example 1(a) employing 5-(4-chlorobutyl)-1-cyclohexyl-1H-tetrazole in lieu of ethyl 4-bromomethylbenzoate and imidazo[4,5-b]pyridine in lieu of imidazo[4,5-c]pyridine yielded an impure mixture of isomers. The mixture was purified by column chromatography (silica gel, 5% ethanol in chloroform) to yield a less polar isomer which was recrystallized from diethyl ether-chloroform to yield 3-[4-(1-cylohexyl-1H-tetrazol-5-yl)butyl]-3H-imidazo[4,5-b]pyridine as a colorless crystalline solid, having a melting point of 94°-95° C. and the following physical characteristics:

reactant | 5-(4-chlorobutyl)-1-cyclohexyl-1H-tetrazole | ClCCCCC1=NN=NN1C1CCCCC1 | C11H19ClN4
reactant | ethyl 4-bromomethylbenzoate | BrCC1=CC=C(C(=O)OCC)C=C1 | C10H11BrO2
reactant | imidazo[4,5-b]pyridine | N1C=NC2=NC=CC=C21 | C6H5N3
reactant | imidazo[4,5-c]pyridine | N1C=NC=2C=NC=CC21 | C6H5N3
product | 3-[4-(1-cylohexyl-1H-tetrazol-5-yl)butyl]-3H-imidazo[4,5-b]pyridine | C1(CCCCC1)N1N=NN=C1CCCCN1C=NC=2C1=NC=CC2 | C17H23N7
